US09402838B2
Synthesis of methyl (R)-1-(2-phenoxyethyl)piperidine-2-carboxylate
Dissolve methyl (R)-piperidine-2-carboxylate (5.00 g, 34.9 mmol) in DMF (87 mL) and treat with K2CO3 (14.48 g, 104.8 mmol) and β-bromophenetole (7.16 g, 34.9 mmol). Stir the mixture overnight at 100° C. Cool the mixture to room temperature and add EtOAc (250 mL). Wash the organic phase with water (4×100 mL) and saturated aqueous NaCl (100 mL). Dry the organic phase over K2CO3, filter to remove the solids, and concentrate the filtrate under reduced pressure to furnish a yellow oil. Subject this crude material to flash chromatography on silica gel eluting with a gradient of 20% to 100% EtOAc/hexanes. Concentrate the fractions containing the desired product under reduced pressure to furnish the title compound as a colorless oil in ca. 90% purity by 1H NMR analysis (6.50 g, 64% yield). Mass spectrum (m/z) 264 (M+H)+. 1H NMR (400 MHz, CDCl3): δ 7.27 (dd, J=8.5, 7.3 Hz, 2H), 6.93 (t, J=7.3 Hz, 1H), 6.88 (d, J=8.8 Hz, 2H), 4.10 (app t, J=6.1 Hz, 2H), 3.72 (s, 3H), 3.29 (dd, J=8.4, 4.0 Hz, 1H), 3.14 (app dt, J=11.3, 6.4 Hz, 1H), 2.95 (app dt, J=13.7, 6.1 Hz, 1H), 2.89 (app dt, J=13.7, 6.1 Hz, 1H), 2.42 (ddd, J=11.6, 7.9, 3.7 Hz, 1H), 1.90-1.82 (m, 1H), 1.79 (app td, J=8.9, 3.8 Hz, 1H), 1.67-1.59 (m, 3H), 1.39 (app td, J=8.8, 4.0 Hz, 1H).

reactant | methyl (R)-piperidine-2-carboxylate | 34.9 mmol, 5.00 g | N1[C@H](CCCC1)C(=O)OC | C7H13NO2
reactant | K2CO3 | 104.8 mmol, 14.48 g | C(=O)([O-])[O-].[K+].[K+]
reactant | β-bromophenetole | 34.9 mmol, 7.16 g | BrCCOC1=CC=CC=C1 | C8H9BrO
reactant | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 87 mL | CN(C)C=O | C3H7NO
product | methyl (R)-1-(2-phenoxyethyl)piperidine-2-carboxylate | 64% yield | O(C1=CC=CC=C1)CCN1[C@H](CCCC1)C(=O)OC | C15H21NO3
